US07585885B2
2-Chloro-6-(2-oxopropyl)-isonicotinic acid methyl ester
Add methyl 2,6-dichloroisonicotinate (3.0 g, 15.0 mmol), trans-dichlorobis(tri-o-tolylphosphine)palladium (II) (196 mg, 0.25 mmol), tributyltin methoxide (2.4 g, 7.5 mmol) and toluene (20 mL) in a previously nitrogen filled sealed vessel. Flush the reactants with nitrogen again. Add isopropenyl acetate (0.85 mL, 7.75 mmol) under nitrogen and heat the sealed mixture at 100° C. overnight with vigorous stirring. Cool the reaction to room temperature, dilute with diethyl ether and filter through a filtering agent. Concentrate and purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate:hexanes) to give the title compound (29%).

reactant | methyl 2,6-dichloroisonicotinate | 15.0 mmol, 3.0 g | ClC=1C=C(C(=O)OC)C=C(N1)Cl | C7H5Cl2NO2
reactant | tributyltin methoxide | 7.5 mmol, 2.4 g | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | isopropenyl acetate | 7.75 mmol, 0.85 mL | C(C)(=O)OC(=C)C | C5H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | trans-dichlorobis(tri-o-tolylphosphine)palladium (II) | 0.25 mmol, 196 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C.CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C.Cl[Pd]Cl
product | 2-Chloro-6-(2-oxopropyl)-isonicotinic acid methyl ester | 29% | COC(C1=CC(=NC(=C1)CC(C)=O)Cl)=O | C10H10ClNO3
